US09303045B2
Step 1: Methyl 1-(pyrimidin-5-yl)-1H-indole-3-carboxylate
To a vial containing methyl 1H-indole-3-carboxylate (471 mg, 2.69 mmol), pyrimidin-5-ylboronic acid (1.0 g, 8.07 mmol), copper (II) acetate (635 mg, 3.5 mmol), 4 {acute over (Å)} molecular sieves (4 g) and 1,10-phenanthroline (970 mg, 5.38 mmol) were added DCM (10.7 ml) and triethylamine (0.375 ml, 2.69 mmol). The mixture was stirred at RT for 7 days then filtered through a pad of Celite (washed with MeOH). Evaporation and purification by HPLC (after dilution with DMF and filtration) afforded the title compound as a tan solid.

reactant | methyl 1H-indole-3-carboxylate | 2.69 mmol, 471 mg | N1C=C(C2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | pyrimidin-5-ylboronic acid | 8.07 mmol, 1.0 g | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
reactant | 1,10-phenanthroline | 5.38 mmol, 970 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | triethylamine | 2.69 mmol, 0.375 ml | C(C)N(CC)CC | C6H15N
catalyst | copper (II) acetate | 3.5 mmol, 635 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | DCM | 10.7 ml | C(Cl)Cl | CH2Cl2
product | Methyl 1-(pyrimidin-5-yl)-1H-indole-3-carboxylate | N1=CN=CC(=C1)N1C=C(C2=CC=CC=C12)C(=O)OC | C14H11N3O2
